US08030302B2
Ethyl 5-(2-fluoro-4-nitrophenoxy)-1H-indazole-6-carboxylate
To a solution of ethyl 5-(2-fluoro-4-nitrophenoxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole-6-carboxylate (15 g, 35 mmol) in DCM (300 mL) is added trifluoroacetic acid (TFA) (30 mL), and stirred at RT overnight. DCM is evaporated. The residue is partitioned between EtOAc (800 mL) and 5% aqueous NaHCO3 (400 mL). The organic layer is washed with saturated aqueous sodium chloride, dried over MgSO4, and concentrated. The residue is purified by silica gel column chromatography eluting with PE:acetone (5:1) to afford the product (10.4 g, 86% yield). MS (m/z): 346.1 (M+H).

reactant | ethyl 5-(2-fluoro-4-nitrophenoxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole-6-carboxylate | 35 mmol, 15 g | FC1=C(OC=2C=C3C=NN(C3=CC2C(=O)OCC)C2OCCCC2)C=CC(=C1)[N+](=O)[O-] | C21H20FN3O6
reactant | trifluoroacetic acid | 30 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | acetone | CC(=O)C | C3H6O
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 5-(2-fluoro-4-nitrophenoxy)-1H-indazole-6-carboxylate | 10.4 g, 86% yield | FC1=C(OC=2C=C3C=NNC3=CC2C(=O)OCC)C=CC(=C1)[N+](=O)[O-] | C16H12FN3O5
